US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid
1-tert-Butyl 3-methyl(3R,5S)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (1.6 g) was dissolved in ethanol (100 ml), 2M aqueous sodium hydroxide solution (14.2 ml) was added, and the mixture was stirred at 50° C. for 5 hr. The reaction mixture was cooled to room temperature, adjusted to pH 7 with 1M hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (1.55 g).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 1.6 g | FC=1C=CC2=C(N(C(=N2)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C)CCCCOC)C1 | C29H43FN4O6
reactant | sodium hydroxide | 2M, 14.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 1.55 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=C(C=C2)F)C(=O)O | C28H41FN4O6
